Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Trulicity
 
Attending: ___
 
Chief Complaint:
vision changes, unsteadiness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ (BID #: ___) is a ___ year old female with 
a
history of poorly controlled diabetes mellitus and hypertension,
who presents to the ED with complaints of vision changes and
unsteadiness on her feet.

She was recently seen by her PCP, who started Trulicity this 
past
___, because her A1c was found to be 12.7%.  She took her
first dose of this on ___.  The following day, after she
returned home from dropping her kids off at school she noticed
that she "could not see while driving".  She describes this as
blurry vision in all visual fields.  When she covered her right
eye her vision was fine, and when she covered her left eye her
blurry vision remained.  She denies diplopia. At around the same
time, she noticed episodic vertigo, which she describes as a 
room
spinning sensation.  This was made worse if she looks to the
left, but also occurred when she arose from sitting and also
seemingly randomly at times.  The episodes of vertigo lasted for
___ minutes at a time.  There is no associated nausea or
vomiting.

 She also noticed that she felt unsteady on her feet.  She felt
as if she were unable to walk a straight line, but denies 
veering
to one side or the other.  Her symptoms have essentially 
remained
unchanged since.

The, she does state that she was in a minor car accident about 2
months ago.  She was rear-ended at a low speed.  She did have
some mild neck aches after this, for which she sought
chiropractic care.  She saw the chiropractor once after the 
above
symptoms had started, but before that had not seen him for a 
long
time.
 
On neuro ROS, the pt denies, headache, difficulty speaking or
comprehending speech, dysarthria, dysphasia, tinnitus, hearing
loss or numbness or weakness in any of her extremities.

 
Past Medical History:
HYPERTENSION                                                    
DIABETES TYPE II                                                 


HYPERCHOLESTEROLEMIA                                             


PALPITATIONS                                                    
DIFFICULTY WITH MEDICATION ADHERENCE.                           
? BRUGADA SYNDROME                                              
referred consult Dr. ___ ___ who said she had brugada   
pattern but not brugada syndrome. No special precautions        
necessary at this time.                                         
H/O PPD POSITIVE                                      ___   
neg cxr           
 
Social History:
Country of Origin:  ___                                       
Marital status:     Married, # years: ___                        
Name of             HAll                                        
___:                                               
Children:           Yes: 2girls, 1 boy                          
Lives with:         ___ Children                  
Lives in:           House                                       
Work: ___
Multiple partners:  ___                                      
___ activity:    Present                                     
Sexual orientation: Male                                        
Sexual Abuse:       Denies                                      
Domestic violence:  Denies                                      
Contraception:      N/A                                         
Tobacco use:        Never smoker                                
Tobacco Use         0                                           
Comments:                                                       
Alcohol use:        Denies                                      
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):                                                         
Depression:         Based on a PHQ-2 evaluation, the patient    
                    does not report symptoms of depression      
Depression comments:0                                           
Exercise:           None                                        
Exercise comments:  sometimes                                   
Diet:               fairly good                                 
Seat belt/vehicle   Always                                      
restraint use:                                                  

 
Family History:
Non-contributory    
 
Physical Exam:
Physical Exam:
Vitals: 97.6 78 159/109 18 99% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx. ___ maneuver negative bialterally. 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Poor historian. Attentive,
able to name ___ backward without difficulty. Language is fluent
with intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. Pt was able to name both high and low
frequency objects.  Speech was not dysarthric. Able to follow
both midline and appendicular commands. There was no evidence of
apraxia or neglect.
-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. On left gaze, the
left eye does not abduct completely, and she complains of
horizontal diplopia, which she states is a crossed diplopia.
Normal saccades. VFF to confrontation. Visual acuity ___ OD 
and
___ OS. 
V: Facial sensation intact to light touch.
VII: There is slight asymmetry of the eyelids, with the left
eyelid resting higher on the orbit than the right. There is no
other facial asymmetry
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5     5    5    5      5     5    5       5        5     5    

5   
R  5     5    5   5       5     5   5        5        5     5    

5   

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.
Romberg absent. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally. There is
some mild overshoot with mirror testing on the left. 

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Does not 
veer.

DISCHARGE PHYSICAL EXAM
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.  
Neck: Supple
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Language is fluent
with intact comprehension. Normal prosody. There
were no paraphasic errors. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. On left gaze, the
left eye abducts minimally, and she complains of horizontal 
diplopia. With right gaze, right eye does not fully bury sclera 
but this is much less prominent than left eye with left gaze. 
V: Facial sensation intact to light touch.
VII: There is slight asymmetry of the eyelids, with the left
eyelid resting higher on the orbit than the right. Resists eye
opening with full strength. There is no other facial asymmetry.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   5   5    5    5   5     5     5   
R  5-   ___    5-  5    5-   5   5     5     5   

-Sensory: No deficits to light touch, temperature,
proprioception. No extinction to DSS. Romberg absent. 

-DTRs:
___ response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF. 

-Gait: Good initiation. Narrow-based, normal stride and arm
swing. Does not veer.
 
Pertinent Results:
___ 05:05AM BLOOD WBC-7.6 RBC-4.58 Hgb-13.0 Hct-40.2 MCV-88 
MCH-28.4 MCHC-32.3 RDW-13.1 RDWSD-41.9 Plt ___
___ 04:30PM BLOOD ___ PTT-29.7 ___
___ 05:05AM BLOOD Glucose-121* UreaN-19 Creat-0.9 Na-143 
K-4.0 Cl-104 HCO3-28 AnGap-11
___ 04:30PM BLOOD ALT-18 AST-15 AlkPhos-142* TotBili-0.5
___ 04:30PM BLOOD Lipase-30
___ 04:30PM BLOOD cTropnT-<0.01
___ 05:05AM BLOOD Calcium-9.3 Phos-4.0 Mg-1.9
___ 12:46PM BLOOD %HbA1c-11.8* eAG-292*
___ 08:50AM BLOOD Triglyc-79 HDL-47 CHOL/HD-5.0 
LDLcalc-172*
___ 04:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

MRI brain ___
"FINDINGS:  
  
No acute infarction, edema, mass effect, or evidence for blood 
products.  
Normal size of the ventricles, sulci, and basal cisterns.  Major 
vascular flow voids appear preserved. 
  
Minimal mucosal thickening is noted in the ethmoid air cells. 
  
Sagittal images demonstrate a possible disc herniation at C3-C4 
extending 
superiorly, and a possible disc protrusion at C4-C5. 
  
IMPRESSION:  
  
No acute infarction. "

CTA Head/neck ___
"IMPRESSION: 
  
  
1. Technically limited evaluation of the posterior fossa and 
lower temporal regions due to streak artifact. 
2. No evidence for acute intracranial abnormalities. 
3. Left vertebral V1 segment makes a loop just distal to its 
origin, causing a narrowed appearance.  It is not clear whether 
true stenosis is present. 
4. No evidence for arterial dissection. 
5. Unremarkable head CTA. "
 
Brief Hospital Course:
Ms. ___ is a ___ right-handed woman with a history 
of poorly controlled diabetes mellitus and hypertension who 
presents with blurry vision, horizontal diplopia with left gaze, 
episodic vertigo, and gait unsteadiness. Her exam on admission 
was most notable for a left sixth nerve palsy. Given her 
symptoms, and that she described them as a sudden onset, a MRI 
was performed to rule out posterior circulation stroke. This did 
not show any evidence of acute stroke. As such, her dizziness 
and double vision were thought to be due to her L ___ nerve 
palsy. This was felt to be due to her poorly controlled diabetes 
(A1c was 11.8% during this hospitalization). Her diabetes is 
closely followed as an outpatient, and she was just started on 
Trulicity on ___. She was instructed to patch her eye in 
an alternating fashion (switch covered eye q12h). We recommended 
follow up with neuro-ophthalmology or ophthalmology. She 
indicated she has an ophthalmologist already and will follow up 
with the next available appointment.

TRANSITIONAL ISSUES
diabetes - continue to ensure good glycemic control

L abducens (___) nerve palsy - follow up with ophthalmology, 
patient states she will make an appointment with her 
ophthalmologist. Patch alternating eyes every 12 hours.

Follow-up with neurology and PCP. 

Fasting LDL 172. Atorvastatin 80mg continued. Continue to 
monitor and counsel on diet/exercise. 

Started on aspirin 81mg daily for primary stroke prevention. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 2.5 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. dulaglutide 0.75 mg/0.5 mL subcutaneous 1X/WEEK 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. Glargine 32 Units Breakfast
6. Lisinopril 40 mg PO DAILY 
7. MetFORMIN (Glucophage) 1000 mg PO BID 
8. Ranitidine 150 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3 
2.  Glargine 32 Units Breakfast 
3.  amLODIPine 2.5 mg PO DAILY  
4.  Atorvastatin 80 mg PO QPM  
5.  dulaglutide 0.75 mg/0.5 mL subcutaneous 1X/WEEK  
6.  Hydrochlorothiazide 25 mg PO DAILY  
7.  Lisinopril 40 mg PO DAILY  
8.  MetFORMIN (Glucophage) 1000 mg PO BID  
9.  Ranitidine 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
L abducens nerve palsy, likely secondary to diabetes mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized due to symptoms of unsteadiness and 
vertigo. We noted that one of your eye muscles which helps your 
left eye look to the left was not functioning normally. Because 
of your symptoms, we evaluated you with a MRI of the brain. The 
MRI did not show any evidence of stroke. We believe that your 
symptoms were caused by the eye muscle in your left eye not 
working. This may be due to injury to your nerve. This weakness 
of the muscle causes double vision, which can cause dizziness. 
This is most likely due to diabetes. The high sugar levels can 
damage nerves, and it will be important to get better control of 
your diabetes in the future to prevent damage to other nerves.  
We recommend that you cover one of your eyes with an eye patch. 
You should alternate which eye you keep covered every 12 hours. 
Do not keep the same eye covered with an eye patch for a 
prolonged period of time. We also recommend that you follow up 
with neuro- ophthalmology or ophthalmology as soon as you can; 
you indicated you have one you will see. 

Generally, when this is caused by diabetes it improves over 
several months.We started a baby aspirin (81 mg daily) because 
of your risk factors for stroke to make the chance of one 
happening in the future lower.

Sincerely,
Your ___ neurology team
 
Followup Instructions:
___